US08030347B2
Benzyl(3-oxo-2,3-dihydro-1-benzofuran-6-yl)carbamate
54.7 ml (314 mmol) of diisopropylethylamine and 28.3 ml (188 mmol) of benzyl chloroformate are added to a solution of 23.42 g (157 mmol) of 6-amino-1-benzofuran-3(2H)-one in 400 ml of THF at 0° C. and the mixture is stirred at room temperature for 3 hours. Then a further 4.7 ml (31 mmol) of benzyl chloroformate are added, and the mixture is stirred overnight. The mixture is added to ice-water and extracted twice with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. Chromatography on silica gel 60 (mobile phase: dichloromethane→dichloromethane/ethyl acetate 5:1) affords 30.80 g (64% of theory) of the product as colorless crystals.

reactant | diisopropylethylamine | 314 mmol, 54.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 188 mmol, 28.3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 6-amino-1-benzofuran-3(2H)-one | 157 mmol, 23.42 g | NC1=CC2=C(C(CO2)=O)C=C1 | C8H7NO2
reactant | benzyl chloroformate | 31 mmol, 4.7 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Benzyl(3-oxo-2,3-dihydro-1-benzofuran-6-yl)carbamate | C(C1=CC=CC=C1)OC(NC1=CC2=C(C(CO2)=O)C=C1)=O | C16H13NO4
